US04080502
18.5 g (0.1 mol) of 2,4-dioxo-hexahydro-1,5-dimethyl-3-isopropyl-s-triazine are dissolved in 20 ml of methylene chloride and 24 g (0.15 mol) of bromine are added dropwise. After one hour, the orange-coloured precipitate which has separated out is filtered off and recrystallised from isopropanol. 20 g (75%) of 2,4-dioxo-1,2,3,4-tetrahydro-1,5-dimethyl-3-isopropyl-s-triazinium bromide of melting point 212°-214° C are obtained.

reactant | 2,4-dioxo-hexahydro-1,5-dimethyl-3-isopropyl-s-triazine | 0.1 mol, 18.5 g | O=C1N(CN(C(N1C(C)C)=O)C)C | C8H15N3O2
reactant | bromine | 0.15 mol, 24 g | BrBr | Br2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dioxo-1,2,3,4-tetrahydro-1,5-dimethyl-3-isopropyl-s-triazinium bromide | 20 g, 75% | [Br-].O=C1[NH+](CN(C(N1C(C)C)=O)C)C | InChI=1S/C8H15N3O2.BrH/c1-6(2)11-7(12)9(3)5-10(4)8(11)13;/h6H,5H2,1-4H3;1H
